US05760050
3-(3-Chloro-benzyl)-8-methoxy-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one
Prepared by the procedure of Example 3 from 8-methoxy-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one and 3-chlorobenzaldehyde. Yield 65%; mp 112°-115° C.

reactant | 8-methoxy-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one | COC=1C=CC2=C(C1)OC(C=1CNCCC12)=O | C13H13NO3
reactant | 3-chlorobenzaldehyde | ClC=1C=C(C=O)C=CC1 | C7H5ClO
product | 3-(3-Chloro-benzyl)-8-methoxy-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one | Yield 65% | ClC=1C=C(CN2CC3=C(CC2)C=2C=CC(=CC2OC3=O)OC)C=CC1 | C20H18ClNO3
